US06048884
10 ml of a 4N hydrogen chloride-ethyl acetate solution was added to 10 ml of a methanolic solution of 285 mg of t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-[4-[[2-(2-aminothiazol-4-yl)-2-hydroxyacetyl]amino]phenyl]ethyl]-carbamate at room temperature. The reaction mixture was stirred at room temperature for four hours. The solvent was evaporated off and the residue was purified by means of silica gel column chromatography (eluate: chloroform/methanol=7/1) to obtain 222 mg of (S)-4'-[2-[(2-hydroxy-3-phenoxypropyl)-amino]ethyl]-2-(2-aminothiazol-4-yl)-2-hydroxyacetanilide dihydrochloride.

reactant | hydrogen chloride-ethyl acetate | 4N | C(C)(=O)OCC.Cl
reactant | t-butyl (S)-N-(2-hydroxy-3-phenoxypropyl)-N-[2-[4-[[2-(2-aminothiazol-4-yl)-2-hydroxyacetyl]amino]phenyl]ethyl]-carbamate | 285 mg | OC(CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)NC([C@@H](O)C=1N=C(SC1)N)=O)COC1=CC=CC=C1 | C27H34N4O6S
product | (S)-4'-[2-[(2-hydroxy-3-phenoxypropyl)-amino]ethyl]-2-(2-aminothiazol-4-yl)-2-hydroxyacetanilide dihydrochloride | 222 mg | Cl.Cl.OC(CNCCC1=CC=C(NC([C@@H](O)C=2N=C(SC2)N)=O)C=C1)COC1=CC=CC=C1 | InChI=1S/C22H26N4O4S.2ClH/c23-22-26-19(14-31-22)20(28)21(29)25-16-8-6-15(7-9-16)10-11-24-12-17(27)13-30-18-4-2-1-3-5-18;;/h1-9,14,17,20,24,27-28H,10-13H2,(H2,23,26)(H,25,29);2*1H/t17?,20-;;/m0../s1
